US09352049B2
Preparation of benzyl 5-(chlorodiphenylsilyl)pentanoate
To a mixture of chlorodiphenylsilane (0.49 g; 2.58 mmol) and benzyl pent-4-enoate (0.50 g; 2.58 mmol) under argon was added two drops of Karstedt's catalyst solution (in xylenes; ˜2% Pt). The reaction vessel was sealed and the mixture was heated to 60° C. for 15 hours. The crude liquid was used without purification.

reactant | chlorodiphenylsilane | 2.58 mmol, 0.49 g | Cl[SiH](C1=CC=CC=C1)C1=CC=CC=C1 | C12H11ClSi
reactant | benzyl pent-4-enoate | 2.58 mmol, 0.50 g | C(CCC=C)(=O)OCC1=CC=CC=C1 | C12H14O2
product | benzyl 5-(chlorodiphenylsilyl)pentanoate | Cl[Si](CCCCC(=O)OCC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25ClO2Si
